US06103708
2'-Hydroxy-[1,1';3',1"]terphenyl-5'-carboxylic acid methyl ester
At ambient temperature, to a stirred solution of 2'-(2-methoxyethoxymethoxy)-[1,1';3',1"]terphenyl-5'-carboxylic acid methyl ester (1.608 g, 4.098 mmol) in CH2Cl2 (16.08 mL) was added portionwise trifluoroacetic acid (16.08 mL). After 1 h, the reaction was diluted with ether (100 mL), washed sequentially with H2O (3×), with sat. aq. NaHCO3 (3×), with brine (3×), dried (MgSO4) and concentrated to give 1.240 g (99%) of the title compound as a white solid. 1H NMR (DMSO-d6) δ 3.83 (s, 3 H), 7.39-7.50 (m, 6 H), 7.55-7.57 (m, 4 H), 7.78 (s, 2 H), 9.28 (s, 1 H).

reactant | 2'-(2-methoxyethoxymethoxy)-[1,1';3',1"]terphenyl-5'-carboxylic acid methyl ester | 4.098 mmol, 1.608 g | COC(=O)C=1C=C(C(=C(C1)C1=CC=CC=C1)OCOCCOC)C1=CC=CC=C1 | C24H24O5
reactant | trifluoroacetic acid | 16.08 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 16.08 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2'-Hydroxy-[1,1';3',1"]terphenyl-5'-carboxylic acid methyl ester | 1.240 g, 99% | COC(=O)C=1C=C(C(=C(C1)C1=CC=CC=C1)O)C1=CC=CC=C1 | C20H16O3
